US05843966
2Methoxy-5-(5-(3.3,3-trifluoro-2-oxo-propyl)-tetrazol-1-yl-benzaldehyde
n-Butyl lithium in hexane (0.25 ml; 1.6M) was added to a solution of 1-(3-[1,3]dioxalan-2-yl-4-methoxy-phenyl)-(5-methyl-1H-tetrazole (100 mg) in tetrahydrofuran (5 ml) at -78°. After 10 min trifluoroacetic anhydride (0.064 ml) was added and the reaction was stirred under nitrogen at room temperature for 72 h. 8% Aqueous sodium hydrogen carbonate (20 ml) was added and the product was extracted in dichloromethane (3×20 ml). The combined organic parts were concentrated in vacuo to give a yellow oil. A solution of this oil in acetone (3 ml) and 2N hydrochloric acid (3 ml) was stirred at room temperature for 2 h. The acetone was removed in vacuo and the product was extracted with dichloromethane (3×20 ml). The combined organic parts were dried over sodium sulfate and concentrated in vacuo to give a yellow gum. Purification by chromatography with methanol:methyl t-butyl ether (2.5:97.5) as eluant to afford the title compound (50 mg) as a pale yellow solid, m.p. 128°.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 5-methyl-1H-tetrazole | 100 mg | CC1=NN=NN1 | C2H4N4
reactant | trifluoroacetic anhydride | 0.064 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 2N, 3 ml | Cl | ClH
reactant | hexane | 1.6M, 0.25 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 5-(3.3,3-trifluoro-2-oxo-propyl)-tetrazol-1-yl-benzaldehyde | 50 mg | FC(C(CC1=NN=NN1C1=C(C=O)C=CC=C1)=O)(F)F | C11H7F3N4O2
